US07084154B2
A solution of (4-methoxy-2,3-dimethylphenyl)acetonitrile (0.20 g) in 15 mL diethyl ether was cooled to 0° C. Lithium aluminum hydride (0.20 g) was added in portions to the stirring nitrile solution. The resulting slurry was allowed to warm to rt and stirred for 20 h. The mixture was cooled to 0° C. and carefully quenched by the sequential addition of 0.2 mL of water, followed by 0.2 mL of 3 N sodium hydroxide and 0.6 mL of water. The mixture was stirred for 15 min and filtered to remove the aluminum salts. The filtrate was collected and the volatile material was removed by a rotary evaporator to give 130 mg of 2-(4-methoxy-2,3-dimethylphenyl)ethylamine.

reactant | (4-methoxy-2,3-dimethylphenyl)acetonitrile | 0.20 g | COC1=C(C(=C(C=C1)CC#N)C)C | C11H13NO
reactant | Lithium aluminum hydride | 0.20 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
solvent | diethyl ether | 15 mL | C(C)OCC | C4H10O
product | 2-(4-methoxy-2,3-dimethylphenyl)ethylamine | 130 mg | COC1=C(C(=C(C=C1)CCN)C)C | C11H17NO
